US04105767
11.0 G. (0.05 moles) of 2-amino-5-iodo pyridine, 6.1 g. (0.055 moles) of 2-mercapto pyridine, 2.97 g. (0.055 moles) of sodium methoxide and 1.0 g. of copper powder are combined in 200 ml. of methanol and heated at 150° C for 12 hours in a glass lined bomb. The reaction mixture is filtered and the filtrate evaporated to dryness in vacuo. The residue is dissolved in 300 ml. of methylenechloride and washed 5 times with 2.5 N sodium hydroxide and 3 times with saturated sodium chloride solution. The methylene chloride is dried over magnesium sulfate, and evaporated to dryness. The residue is dissolved in boiling methanol, treated with decolorizing carbon, filtered and evaporated to dryness affording 2-amino-5-(2-pyridylthio) pyridine, m.p. 121° C.

reactant | 2-amino-5-iodo pyridine | 0.05 moles | NC1=NC=C(C=C1)I | C5H5IN2
reactant | 2-mercapto pyridine | 0.055 moles | SC1=NC=CC=C1 | C5H5NS
reactant | sodium methoxide | 0.055 moles | C[O-].[Na+]
catalyst | copper | [Cu] | Cu
solvent | methanol | CO | CH4O
product | 2-amino-5-(2-pyridylthio) pyridine | NC1=NC=C(C=C1)SC1=NC=CC=C1 | C10H9N3S
